US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline-8-carbonitrile (168 mg, 0.48 mmol) in DCM (6 mL) at 0° C. was added 3-chloroperbenzoic acid (70%, 203 mg, 0.83 mmol) and the mixture stirred for 50 min. The mixture was diluted with DCM and then aq sodium thiosulfate solution was added followed by addition of saturated aq sodium bicarbonate. The organic layer was separate, dried over sodium sulfate and concentrated under reduced pressure. To the residue were added THF (3 mL) and 5-methyl-1H-pyrazol-3-amine (139 mg, 1.44 mmol) and the mixture was stirred at rt for 25 min. The mixture was concentrated under reduced pressure and purified by reverse phase HPLC (Varian C-18 reverse phase column, eluted with gradient of solvent B=0.05% formic acid/CH3CN and solvent A=0.05% aq formic acid/5% CH3CN) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carbonitrile (78 mg, 41%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.18 (s, 3H) 5.97 (s, 1H) 7.77 (t, J=7.91 Hz, 1H) 8.03 (dd, J=6.40, 1.32 Hz, 2 H) 8.45 (d, J=7.16 Hz, 1H) 8.68 (s, 1H) 8.99 (d, J=8.29 Hz, 1H) 11.04-11.20 (m, 1H) 12.18-12.37 (m, 1H); LC-MS (ESI) m/z 396 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline-8-carbonitrile | 0.48 mmol, 168 mg | FC(C1=NC2=C(C=CC=C2C(=N1)SC)C#N)(C1=NC=C(C=C1)F)F | C16H9F3N4S
reactant | 3-chloroperbenzoic acid | 0.83 mmol, 203 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 5-methyl-1H-pyrazol-3-amine | 1.44 mmol, 139 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carbonitrile | 78 mg, 41% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)C#N)(C1=NC=C(C=C1)F)F | C19H12F3N7
